### PR TITLE
[Merged by Bors] - feat(GroupTheory/PGroup): a finite p-group is simple iff it has cardinality p

### PR DESCRIPTION
**Pull request by xroblot**
Add `IsPGroup.isSimpleGroup_iff_card_eq` and expand the module docstring of `Mathlib/GroupTheory/PGroup.lean`, which described only the fixed-point congruence.

Prepared with Claude Code 🤖

---

### CODE REVIEW

File: Mathlib/GroupTheory/PGroup.lean [hunk 1]
```diff
@@ -320,6 +335,15 @@ theorem bot_lt_center [Nontrivial G] [Finite G] : ⊥ < Subgroup.center G := by
   exact
       bot_lt_iff_ne_bot.mpr ((Subgroup.center G).one_lt_card_iff_ne_bot.mp Finite.one_lt_card)
 
+/-- A p-group is simple iff it has cardinality `p`. -/
+theorem isSimpleGroup_iff_card_eq [Finite G] : IsSimpleGroup G ↔ Nat.card G = p := by
+  refine ⟨fun h ↦ ?_, fun h ↦ isSimpleGroup_of_prime_card h⟩
+  have : IsMulCommutative G := Subgroup.center_eq_top_iff.mp <|
+    (h.eq_bot_or_eq_top_of_normal (Subgroup.center G) inferInstance).resolve_left <|
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]: Maybe `IsSimpleGroup` should say
```
eq_bot_or_eq_top_of_normal : ∀ (H : Subgroup G) [H.Normal], H = ⊥ ∨ H = ⊤
```
(and likewise for `Subgroup.Normal.eq_bot_or_eq_top`?)

Comment (xroblot) [reply Mathlib/GroupTheory/PGroup.lean]: #43864

File: Mathlib/GroupTheory/PGroup.lean [hunk 2]
```diff
@@ -320,6 +335,15 @@ theorem bot_lt_center [Nontrivial G] [Finite G] : ⊥ < Subgroup.center G := by
   exact
       bot_lt_iff_ne_bot.mpr ((Subgroup.center G).one_lt_card_iff_ne_bot.mp Finite.one_lt_card)
 
+/-- A p-group is simple iff it has cardinality `p`. -/
+theorem isSimpleGroup_iff_card_eq [Finite G] : IsSimpleGroup G ↔ Nat.card G = p := by
+  refine ⟨fun h ↦ ?_, fun h ↦ isSimpleGroup_of_prime_card h⟩
+  have : IsMulCommutative G := Subgroup.center_eq_top_iff.mp <|
+    (h.eq_bot_or_eq_top_of_normal (Subgroup.center G)).resolve_left <|
+      ne_bot_of_gt <| bot_lt_center hG
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]:
```suggestion
    (h.eq_bot_or_eq_top_of_normal (Subgroup.center G)).resolve_left (bot_lt_center hG).ne'
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+
